US05244908
(2) Synthesis of 5-[3-(methylsulfonylamino)propylthio]imidazo[1,2-a]pyridine (Compound 27)
To a solution of 5-mercaptoimidazo[1,2-a]pyridine (1.50 g, 10 mmoles) and 4M sodium methylate (2.93 ml, 12 mmoles) in ethanol (50 ml) was added 3-methylsulfonylamino-1-methylsulfonyloxypropane (2.77 g, 12 mmoles) at room temperature and the mixture was heated under reflux for 16 hours. After cooling, the solvent was distilled off. The residue was dissolved in chloroform, washed with an aqueous saturated sodium bicarbonate solution and dried. After the solvent was distilled off, the residue was purified by column chromatography [eluent: ethyl acetate/ethanol (50:1)] to obtain 1.34 g of the desired product (47.5%, pale yellow crystals).

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 10 mmoles, 1.50 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | sodium methylate | 12 mmoles, 4M, 2.93 ml | C[O-].[Na+]
reactant | 3-methylsulfonylamino-1-methylsulfonyloxypropane | 12 mmoles, 2.77 g | CS(=O)(=O)NCCCOS(=O)(=O)C | C5H13NO5S2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-[3-(methylsulfonylamino)propylthio]imidazo[1,2-a]pyridine | 1.34 g, 47.5% | CS(=O)(=O)NCCCSC1=CC=CC=2N1C=CN2 | C11H15N3O2S2
